US07705042B2
b) 5′-Chloro-4-methyl-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl
A mixture of 3,5-dichloro-2-nitropyridine (193 mg, 1.00 mmol), 4-methylpiperidine (118 μL, 1.00 mmol) and K2CO3 (138 mg, 1.00 mmol) in toluene (10 mL) was heated at 50° C. for 3 h. Toluene was removed in vacuo and the residue obtained was purified on silica (2% EtOAc/hexane) to obtain the title compound (153 mg, 60%). 1H-NMR (CDCl3; 400 MHz): δ 7.95 (s, 1H, J=2.5 Hz), 7.58 (s, 1H, J=2.5 Hz), 3.30 (m, 2H), 2.95 (m, 2H), 1.87 (m; 2H), 1.65 (m, 1H), 1.35 (m, 2H), 1.0 (d, 3H, J=6.3 Hz).

reactant | 3,5-dichloro-2-nitropyridine | 1.00 mmol, 193 mg | ClC=1C(=NC=C(C1)Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | 4-methylpiperidine | 1.00 mmol, 118 μL | CC1CCNCC1 | C6H13N
reactant | K2CO3 | 1.00 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5′-Chloro-4-methyl-2′-nitro-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl | 153 mg, 60% | ClC=1C=C(C(=NC1)[N+](=O)[O-])N1CCC(CC1)C | C11H14ClN3O2
